US07968746B2
A solution of 6-hydroxy-2,5,7,8-tetramethyl-N-(pyridin-2-ylmethyl)chroman-2-carboxamide (104 mg, 0.307 mmol) in 4 mL AcCN was chilled to 0° C. and CAN (370 mg in 2 mL H2O) added followed by 8 mL EtOAc, 4 mL 1.0 M NaHCO3 and 250 mg K2CO3. The emulsion was extracted 5×4 mL EtOAc and the combined organics washed 2×4 mL saturated NaCl, dried over Na2SO4 and concentrated to yellow oil. Flash chromatography yielded 2-hydroxy-2-methyl-N-(pyridin-2-ylmethyl)-4-(2,4,5-trimethyl-3,6-dioxocyclohexa-1,4-dienyl)butanamide.

reactant | 6-hydroxy-2,5,7,8-tetramethyl-N-(pyridin-2-ylmethyl)chroman-2-carboxamide | 0.307 mmol, 104 mg | OC=1C(=C2CCC(OC2=C(C1C)C)(C(=O)NCC1=NC=CC=C1)C)C | C20H24N2O3
reactant | CAN | 2 mL, 370 mg | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
reactant | NaHCO3 | 1.0 M, 4 mL | C(=O)(O)[O-].[Na+]
reactant | K2CO3 | 250 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | AcCN | 4 mL | C(=O)(C)C#N | C3H3NO
solvent | EtOAc | 8 mL | CCOC(=O)C | C4H8O2
product | 2-hydroxy-2-methyl-N-(pyridin-2-ylmethyl)-4-(2,4,5-trimethyl-3,6-dioxocyclohexa-1,4-dienyl)butanamide | OC(C(=O)NCC1=NC=CC=C1)(CCC1=C(C(C(=C(C1=O)C)C)=O)C)C | C20H24N2O4
